US08227601B2
4-(4-(4-Acetyl-2,6-dimethylphenoxy)-5-benzyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
In a sealed tube was added 1-(4-(5-benzyl-2-chloro-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylphenyl)ethanone (111 mg, 0.27 mmol), 4-aminobenzonitrile (129 mg, 1.1 mmol), TFE (1.7 mL) and TFA (0.2 mL, 2.16 mmol). The reaction mixture was stirred at 90° C. for 16 h. Upon completion of the reaction, the resulting mixture was cooled, diluted with water, and washed with EtOAc. The combined organic layers were washed with NaHCO3 and brine; dried over Na2SO4; filtered; and concentrated in vacuo. The crude product was purified by silica gel column chromatography, eluting with hexanes:ethyl acetate (9:1-100% EtOAc), to give the product as an off-white solid (68 mg, 51%).

reactant | 1-(4-(5-benzyl-2-chloro-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylphenyl)ethanone | 0.27 mmol, 111 mg | C(C1=CC=CC=C1)N1C=CC=2N=C(N=C(C21)OC2=C(C=C(C=C2C)C(C)=O)C)Cl | C23H20ClN3O2
reactant | 4-aminobenzonitrile | 1.1 mmol, 129 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | TFA | 2.16 mmol, 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 4-(4-(4-Acetyl-2,6-dimethylphenoxy)-5-benzyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 68 mg, 51% | C(C)(=O)C1=CC(=C(OC=2C3=C(N=C(N2)NC2=CC=C(C#N)C=C2)C=CN3CC3=CC=CC=C3)C(=C1)C)C | C30H25N5O2
